US07705042B2
b) N-Methyl-N-(4-nitro-3-piperidin-1-yl-phenyl)-methanesulfonamide
To a solution of N-methyl-(4-nitro-3-piperidin-1-yl-phenyl)-amine (128 mg, 0.54 mmol, as prepared in the previous step) and triethylamine (301 μL, 2.16 mmol) in 4 mL of CH2Cl2 was added mesyl chloride (125 μL, 1.62 mmol) via microsyringe and the reaction was allowed to stir overnight. At this time it was diluted with CHCl3 (50 mL), washed with satd aq NaHCO3 (2×50 mL), and dried (Na2SO4). Concentration of the solvent in vacuo and purification of the crude material using preparative TLC (4% MeOH—CHCl3) afforded 154 mg (91%) of the title compound as an oil. Mass spectrum (ESI, m/z): Calcd. for C13H19N3O4S, 314.1 (M+H), found 314.1.

reactant | N-methyl-(4-nitro-3-piperidin-1-yl-phenyl)-amine | CNC1=CC(=C(C=C1)[N+](=O)[O-])N1CCCCC1 | C12H17N3O2
reactant | triethylamine | 2.16 mmol, 301 μL | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 1.62 mmol, 125 μL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | N-Methyl-N-(4-nitro-3-piperidin-1-yl-phenyl)-methanesulfonamide | 154 mg, 91% | CN(S(=O)(=O)C)C1=CC(=C(C=C1)[N+](=O)[O-])N1CCCCC1 | C13H19N3O4S
